US07001899B2
Preparation of {6-(benzylamino-methyl)-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid methyl ester (24):
To the crude product from the previous reaction, {6-[(methanesulfonyl)methyl]-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid methyl ester, 23, (0.147 g, 0.32 mmol) in CH2Cl2 (1 mL), is added benzylamine (1 mL). The reaction is stirred at room temperature for 10 minutes, then the reaction is diluted with CH2Cl2. The organic layer is washed with saturated NaHCO3, saturated NaCl, and dried (Na2SO4). The solvent is removed in vacuo and the resulting crude material is purified by HPLC to afford 82 mg (44% yield) of the desired product as the trifluoroacetate salt. 1H (CDCl3) δ 8.82–8.79 (d, J=6.1 Hz, 1H), 8.61–8.59 (d, J=8.6 Hz, 1H), 8.33–8.31, (d, J=5.8 Hz, 1H), 8.01–7.99 (d, J=5.94 Hz, 1H), 7.95–7.82 (m, 2H), 7.77–7.72 (d, d, J=7.98, 7.98 Hz, 1H), 7.36–7.18 (m, 5H), 5.91 (bs, 1H), 5.40–5.39 (m, 1H), 4.67–4.61 (d, J=17.4 Hz, 1H), 4.55–4.49 (d, J=17.8 Hz, 1H), 4.19–4.05 (m, 1H), 3.88–3.83 (d, J=14.7 Hz, 1H), 3.77–3.57 (m, 3H), 3.50 (s, 3H), 2.84–2.78 (d, J=17.8 Hz, 1H), 2.50–2.40 (d, d, J=15.8, 14.5 Hz, 1H); 13C (CDCl3) 171.9, 171.5, 161.9, 161.4, 160.9, 160.6, 149.1, 139.1, 135.2, 134.7, 134.2, 131.3, 130.3, 130.2, 130.1, 129.6, 128.2, 127.9, 127.8, 127.4, 125.8, 121.5, 117.7, 113.8, 110.0, 53.5, 52.9, 51.6, 49.8, 48.3, 37.9, 31.6; MS 473 (M+H)+.

reactant | {6-[(methanesulfonyl)methyl]-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid methyl ester | COC(CN1C(C(CC=C(C1)CS(=O)(=O)C)NC(=O)C1=NC=CC2=CC=CC=C12)=O)=O | C21H23N3O6S
reactant | benzylamine | 1 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | {6-(benzylamino-methyl)-3-[(isoquinoline-1-carbonyl)-amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl}-acetic acid methyl ester | 82 mg, 44% yield | COC(CN1C(C(CC=C(C1)CNCC1=CC=CC=C1)NC(=O)C1=NC=CC2=CC=CC=C12)=O)=O | C27H28N4O4
